US05773530
To a solution of 3-[2-(2-tert-butoxycarbonylmethyl-1-cyclohexenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (248 g) in dichloromethane (500 ml) was added dropwise trifluoroacetic acid (396 ml) at 5° C.. After addition, a reaction mixture was allowed to warm to ambient temperature, and stirred for 20 hours. Solvent was removed by distillation and toluene azeotrope (500 ml×2). A residue was dissolved in a mixture of 1N-aqueous sodium hydroxide solution (3.5 l) and water (0.5 l), which was washed with ethyl acetate (600 ml). Aqueous layer was added dichloromethane (2 l) and the pH was adjusted to pH 3.5 with 2N-aqueous hydrochloric acid. Organic layer was separated and aqueous layer was reextracted with dichloromethane (1 l). Organic layer was combined, which was washed with water (1 l×2) and dried over magnesium sulfate. Evaporation of the solvent gave a crude solid, which was recrystallized from 85% aqueous ethanol (1.25 l), and collected by filtration to give 3-[2-(2-carboxymethyl-1-cyclohexenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (152.2 g). Mother liquor was concentrated to give crude solid, which was recrystallized in the similar manner to give the second crystal of the object compound (27.63 g).

reactant | 3-[2-(2-tert-butoxycarbonylmethyl-1-cyclohexenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 248 g | C(C)(C)(C)OC(=O)CC1=C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C29H30N4O3
reactant | trifluoroacetic acid | 396 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 3-[2-(2-carboxymethyl-1-cyclohexenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 152.2 g | C(=O)(O)CC1=C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C25H22N4O3
